US09193733B2
Step 1. tert-butyl 2-chloro-6-(trifluoromethyl)isonicotinate
2-Chloro-6-(trifluoromethyl)pyridine (20.0 g, 0.11 mol, Oakwood) was dissolved in tetrahydrofuran (397 mL) and then 1.0 M lithium chloride—chloro(2,2,6,6-tetramethylpiperidin-1-yl)magnesium (1:1) in THF (132.2 mL, 132.2 mmol, Aldrich) was added. The reaction was stirred at ambient temperature for 1 hour and was then cooled to −78° C., and then a solution of di-tert-Butyldicarbonate (48.1 g, 0.22 mol, Aldrich) in tetrahydrofuran (100 mL) was added. The reaction was stirred at −78° C. for 1 hour and then allowed to warm to room temperature overnight. The reaction was quenched with water, then ammonium chloride was added. The layers were separated and the aqueous was extracted with two portions of ethyl acetate. The combined organic extracts were washed with water, then sat'd NaCl solution, dried over Na2SO4, filtered and concentrated. The crude product, which was a mixture of two regioisomers, was purified by flash chromatography, eluting with 2% EtOAc in hexanes, in 3 batches, each on a 330 g silica gel cartridge. The first product to elute was the desired regioisomer, which also contained some unreacted starting material. The product crystallized on standing and the oil, which contained some unreacted starting material, was decanted away, leaving a more pure crystalline product (9.58 g, 30%). 1H NMR (300 MHz, CDCl3) δ 8.07 (d, J=1.1 Hz, 1H), 8.02-7.99 (m, 1H), 1.62 (s, 9H). 19F NMR (282 MHz, CDCl3) δ −68.43 (s). LCMS (M-tBu+H)+: 225.9/227.9.

reactant | 2-Chloro-6-(trifluoromethyl)pyridine | 0.11 mol, 20.0 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | lithium chloride chloro(2,2,6,6-tetramethylpiperidin-1-yl)magnesium | 1.0 M | [Cl-].[Li+].Cl[Mg]N1C(CCCC1(C)C)(C)C
reactant | di-tert-Butyldicarbonate | 0.22 mol, 48.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 397 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 132.2 mmol, 132.2 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-chloro-6-(trifluoromethyl)isonicotinate | 9.58 g, 30% | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)C(F)(F)F | C11H11ClF3NO2
